US09227919B2
Step-10: tert-Butyl((R)-1-(4-fluoronaphthalen-1-yl)ethyl)(3-((R)-4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propyl)carbamate
To a stirred solution of tert-Butyl((R)-1-(4-fluoronaphthalen-1-yl)ethyl)(3-((2R)-4-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)propyl)carbamate (886 mg, 1.855 mmol) DCM (8 mL), PCC (304 mg, 2.226 mmol) was added at 0° C. and stirred for 1 h at 25° C. The reaction mixture was filtered through celite bed and the filtrate concentrated to get the crude compound. This crude compound was purified by column chromatography (Biotage) using eluent (1:9, ethyl acetate:n-hexane) to get the title compound (500 mg). m/z 476.42.

reactant | tert-Butyl((R)-1-(4-fluoronaphthalen-1-yl)ethyl)(3-((2R)-4-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)propyl)carbamate | 1.855 mmol, 8 mL, 886 mg | C(C)(C)(C)OC(N(CCC[C@@H]1CC2=CC=CC=C2C(C1)O)[C@H](C)C1=CC=C(C2=CC=CC=C12)F)=O | C30H36FNO3
reactant | PCC | 2.226 mmol, 304 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
product | tert-Butyl((R)-1-(4-fluoronaphthalen-1-yl)ethyl)(3-((R)-4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)propyl)carbamate | 500 mg | C(C)(C)(C)OC(N(CCC[C@@H]1CC2=CC=CC=C2C(C1)=O)[C@H](C)C1=CC=C(C2=CC=CC=C12)F)=O | C30H34FNO3
